### PR TITLE
`SymEnv.ofEnv` is sound

### PR DESCRIPTION
**Pull request by zhengyao-lin**
This PR proves the following soundness theorem for `SymEnv.ofEnv`
```
theorem ofEnv_soundness
  {Γ : TypeEnv} {env : Env}
  env.StronglyWellFormed →
  InstanceOfWellFormedEnvironment env.request env.entities Γ →
  env ∈ᵢ SymEnv.ofEnv Γ
```
i.e., for any sufficiently well-formed `env : Env`, we can construct a well-formed `Interpretation` of `SymEnv.ofEnv Γ` that corresponds to `env`.

This can be used to reduce the preconditions of some top-level soundness theorems in [`Cedar/Thm/Verification`](https://github.com/cedar-policy/cedar-spec/blob/ef53d7f049f8f1c965ba5b04d06fc136470d5ad9/cedar-lean/Cedar/Thm/Verification.lean) from `env ∈ᵢ εnv` to `InstanceOfWellFormedEnvironment env.request env.entities Γ`, which is a simpler condition (and has an executable version).

The `Interpretation` is constructed using the new `Env.symbolize?` function in `Cedar/SymCC/Symbolizer.lean`.
Since it's executable, it potentially enables a nice feature to specify a concrete entity store in verification requests in SymCC: one can specialize an `εnv : SymEnv` by `εnv.interpret env.symbolize?`. I'll leave this to a future PR.

This PR is a bit large; but the majority of new definitions are in `Cedar/SymCC/Symbolizer.lean`, and the rest is mostly only proofs.

Thank you!!

### CODE REVIEW

File: cedar-lean/Cedar/SymCC/Env.lean [hunk 1]
```diff
@@ -109,6 +109,18 @@ deriving instance Repr, Inhabited, DecidableEq for SymEnv
 
 ----- Functions for constructing symbolic input from a schema -----
 
+def UUF.attrs_id (ety : EntityType) : String :=
```
Comment (emina) [inline cedar-lean/Cedar/SymCC/Env.lean]: Naming convention:  we use camelCase for function names. snake_case is for theorems (things of type `Prop`) only.

See here:  https://github.com/cedar-policy/cedar-spec/blob/main/cedar-lean/GUIDE.md

Same comment for the three functions below this one :)

File: cedar-lean/Cedar/SymCC/Symbolizer.lean [hunk 2]
```diff
@@ -0,0 +1,252 @@
...
+This file contains functions to encode a concrete `Env`
+into a `SymEnv`, which can also be thought of as an "inverse"
+of concretization.
+-/
+
+namespace Cedar.Spec
+
+open Data Spec SymCC Validation
+
+def Prim.symbolize (p : Prim) : Term :=
```
Comment (emina) [inline cedar-lean/Cedar/SymCC/Symbolizer.lean]: We can write this more compactly with the explicit `match` like this:

```
def Prim.symbolize : Prim →Term
  | .bool b         => .prim (.bool b)
  | .int i          => .prim (.bitvec i.toBitVec)
  | .string s       => .prim (.string s)
  | .entityUID euid => .prim (.entity euid)
```

File: cedar-lean/Cedar/SymCC/Symbolizer.lean [hunk 3]
```diff
@@ -0,0 +1,252 @@
...
+    Value.symbolize? ↑req.action (.entity Γ.reqty.action.ty)
+  else if var == { id := "resource", ty := TermType.ofType (.entity Γ.reqty.resource) } then
+    Value.symbolize? ↑req.resource (.entity Γ.reqty.resource)
+  else if var == { id := "context", ty := TermType.ofType (.record Γ.reqty.context) } then
+    Value.symbolize? ↑req.context (.record Γ.reqty.context)
+  else
+    .none
+
+def defaultEidOf (Γ : TypeEnv) (ety : EntityType) : String :=
+  -- TODO: Improve performance by looking up in `Γ` directly
```
Comment (emina) [inline cedar-lean/Cedar/SymCC/Symbolizer.lean:92]: We can simplify this code:

```
def defaultEidOf (Γ : TypeEnv) (ety : EntityType) : String :=
  -- TODO: Improve performance by looking up in `Γ` directly
  Decoder.eidOfForEntities (SymEnv.ofEnv Γ).entities ety 
```

File: cedar-lean/Cedar/SymCC/Symbolizer.lean [hunk 4]
```diff
@@ -0,0 +1,252 @@
...
+  match (SymEnv.ofEnv Γ).entities.find? ety with
+  | .some d =>
+    if let .some eids := d.members then
+      match eids.toList with
+      | [] => ""
+      | eid :: _ => eid
+    else ""
+  | .none => ""
+
+def defaultLit' (Γ : TypeEnv) (ty : TermType) : Term :=
```
Comment (emina) [inline cedar-lean/Cedar/SymCC/Symbolizer.lean]: Let's rename this to not use '. Maybe `defaultLitForType` or something like that.

File: cedar-lean/Cedar/SymCC/Symbolizer.lean [hunk 5]
```diff
@@ -0,0 +1,252 @@
...
+
+def Prim.symbolize (p : Prim) : Term :=
+  match p with
+  | .bool b => .prim (.bool b)
+  | .int i => .prim (.bitvec i.toBitVec)
+  | .string s => .prim (.string s)
+  | .entityUID euid => .prim (.entity euid)
+
+/-- Encodes a `Value` as a `Term` assuming it is of a certain type -/
+def Value.symbolize? (v : Value) (ty : CedarType) : Option Term :=
```
Comment (emina) [inline cedar-lean/Cedar/SymCC/Symbolizer.lean:39]: Let's simplify this a bit and make types explicit in the helper function:

```
def Value.symbolize? (v : Value) (ty : CedarType) : Option Term :=
  match v, ty with
  | .prim p, _   => .some (Prim.symbolize p)
  | .set (.mk vs), .set ty => do
    let elems := ← vs.mapM₁ (λ ⟨v, _⟩ => v.symbolize? ty)
    .some (.set (Set.make elems) (TermType.ofType ty))
  | .record rec, .record (.mk rty) => do
    let elems := ← rty.mapM (λ (a, qty) => symbolizeAttr? rec a qty)
    .some (Term.record (Map.mk elems))
  | .ext e, _ => .some ↑e
  | _, _ => .none
termination_by sizeOf v
decreasing_by 
  · rename_i h 
    have h := List.sizeOf_lt_of_mem h
    simp [h]
    omega 
  · simp   
where
  symbolizeAttr? (rec : Map Attr Value) (a : Attr) (qty : QualifiedType) : Option (Attr × Term) :=
    match _h : rec.find? a with
    | .none   => .some (a, .none (TermType.ofType qty.getType))
    | .some v =>
      match qty with
      | .optional ty => do .some (a, .some (← v.symbolize? ty))
      | .required ty => do .some (a, ← v.symbolize? ty)
  termination_by sizeOf rec
  decreasing_by
    all_goals
      have := Map.find?_mem_toList _h
      have := List.sizeOf_lt_of_mem this
      cases rec
      simp [Map.toList, Map.kvs] at this ⊢
      omega
```

**Review by emina — CHANGES_REQUESTED** [review]

File: cedar-lean/Cedar/SymCC/Env.lean (hunk 1 above)
Comment (zhengyao-lin) [reply cedar-lean/Cedar/SymCC/Env.lean]: yes sorry missed that!

File: cedar-lean/Cedar/SymCC/Symbolizer.lean (hunk 4 above)
Comment (zhengyao-lin) [reply cedar-lean/Cedar/SymCC/Symbolizer.lean]: Sounds good. I'm changing it to `defaultLitWithDefaultEid` to be more descriptive (since the original `defaultLit` also takes a type).

File: cedar-lean/Cedar/SymCC/Symbolizer.lean (hunk 5 above)
Comment (zhengyao-lin) [reply cedar-lean/Cedar/SymCC/Symbolizer.lean:39]: done!

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 6]
```diff
@@ -1496,4 +1584,183 @@ decreasing_by
...
+        ]
+        cases hsorted
+        assumption
+      · apply ih
+        · cases hsorted
+          · constructor
+          · assumption
+        · exact hrst'
+
+theorem list_map_id_eq
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: This exists in the standard library: https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Lemmas.html#List.map_id

Let's remove it.

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 7]
```diff
@@ -1496,4 +1584,183 @@ decreasing_by
...
+    simp only [List.map_cons, List.cons.injEq]
+    constructor
+    · apply hf x
+      simp
+    · apply ih
+      intros x hmem_x
+      apply hf
+      simp [hmem_x]
+
+theorem list_findSome?_unique
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: Let's rename this to drop the prefix `list_`.

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 8]
```diff
@@ -1496,4 +1584,183 @@ decreasing_by
...
+        · simp [hmem_x]
+        · exact h
+    | true =>
+      simp only [Option.some.injEq]
+      have := hg hd List.mem_cons_self h
+      simp only [List.find?] at hfind
+      simp only [this, Option.some.injEq] at hfind
+      exact hfind
+
+theorem list_mem_implies_find?
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: Let's rename this to drop `list_`.
